### PR TITLE
[Merged by Bors] - feat(Order/SaddlePoint): define saddle points of a map

### PR DESCRIPTION
**Pull request by AntoineChambert-Loir**
* `IsSaddlePointOn`.
  Let `f : E × F → β` be a map, where `β` is preordered.
  A pair `(a,b)` in `E × F` is a *saddle point* of `f` on `X × Y`
  if `f a y ≤ f x b` for all `x ∈ X` and all `y `in Y`.

* `isSaddlePointOn_iff`: if `β` is a complete linear order,
  then `(a, b) ∈ X × Y` is a saddle point on `X × Y` iff
  `⨆ y ∈ Y, f a y = ⨅ x ∈ X f x b = f a b`.

Co-authored-by: @ADedecker 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Convex/Quasiconvex.lean [hunk 1]
```diff
@@ -87,6 +88,106 @@ theorem QuasiconcaveOn.convex [IsDirected β (· ≥ ·)] (hf : QuasiconcaveOn 
...
+      specialize hf (f y) ⟨hx.1, h⟩ ⟨hy.1, le_rfl⟩ ha hb hab
+      simp only [mem_setOf_eq] at hf
+      exact ⟨hf.1, le_trans (hg hf.2) hy.2⟩
+  | inr h =>
+      specialize hf (f x) ⟨hx.1, le_rfl⟩ ⟨hy.1, h⟩ ha hb hab
+      simp only [mem_setOf_eq] at hf
+      exact ⟨hf.1, le_trans (hg hf.2) hx.2⟩
+
+theorem QuasiconvexOn.antitone_comp (hg : Antitone g) (hf : QuasiconvexOn 𝕜 s f) :
+  QuasiconcaveOn 𝕜 s (g ∘ f) :=
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/Quasiconvex.lean]:
```suggestion
    QuasiconcaveOn 𝕜 s (g ∘ f) :=
```
Statements of theorems are indented by 4 spaces. Same thing below.

File: Mathlib/Analysis/Convex/Quasiconvex.lean [hunk 2]
```diff
@@ -87,6 +88,106 @@ theorem QuasiconcaveOn.convex [IsDirected β (· ≥ ·)] (hf : QuasiconcaveOn 
...
+section Restriction
+
+variable {𝕜 E : Type*} [Semiring 𝕜] [PartialOrder 𝕜]
+  [AddCommMonoid E] [SMul 𝕜 E]
+variable {β : Type*} [Preorder β]
+variable {s : Set E} {f : E → β}
+
+theorem Convex.quasiconvexOn_restrict {t : Set E} (hf : QuasiconvexOn 𝕜 s f) (hst : t ⊆ s)
+    (ht : Convex 𝕜 t) : QuasiconvexOn 𝕜 t f :=
+  by
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/Quasiconvex.lean]:
```suggestion
    (ht : Convex 𝕜 t) : QuasiconvexOn 𝕜 t f := by
```
`by` should be on the same line as `:=`, here and below.

File: Mathlib/Analysis/Convex/Quasiconvex.lean [hunk 3]
```diff
@@ -87,6 +88,106 @@ theorem QuasiconcaveOn.convex [IsDirected β (· ≥ ·)] (hf : QuasiconcaveOn 
...
+end Composition
+
+section Restriction
+
+variable {𝕜 E : Type*} [Semiring 𝕜] [PartialOrder 𝕜]
+  [AddCommMonoid E] [SMul 𝕜 E]
+variable {β : Type*} [Preorder β]
+variable {s : Set E} {f : E → β}
+
+theorem Convex.quasiconvexOn_restrict {t : Set E} (hf : QuasiconvexOn 𝕜 s f) (hst : t ⊆ s)
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/Quasiconvex.lean]: I'd say the main assumption in this one is the quasi-convexity, so I'd call it `QuasiconvexOn.mono`. Same thing below.

File: Mathlib/Analysis/Convex/Quasiconvex.lean [hunk 4]
```diff
@@ -87,6 +88,106 @@ theorem QuasiconcaveOn.convex [IsDirected β (· ≥ ·)] (hf : QuasiconcaveOn 
...
+      exact ⟨hf.1, le_trans (hg hf.2) hx.2⟩
+
+theorem QuasiconvexOn.antitone_comp (hg : Antitone g) (hf : QuasiconvexOn 𝕜 s f) :
+  QuasiconcaveOn 𝕜 s (g ∘ f) :=
+  hf.monotone_comp (γ := γᵒᵈ) hg
+
+theorem QuasiconcaveOn.monotone_comp (hg : Monotone g) (hf : QuasiconcaveOn 𝕜 s f) :
+  QuasiconcaveOn 𝕜 s (g ∘ f) := by
+  apply QuasiconvexOn.monotone_comp (β := βᵒᵈ) (γ := γᵒᵈ) (f := f) _ hf
+  rw [← monotone_dual_iff]; exact hg
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/Quasiconvex.lean]:
```suggestion
    QuasiconcaveOn 𝕜 s (g ∘ f) :=
  QuasiconvexOn.monotone_comp hg.dual hf
```

File: Mathlib/Analysis/Convex/Quasiconvex.lean [hunk 5]
```diff
@@ -87,6 +88,106 @@ theorem QuasiconcaveOn.convex [IsDirected β (· ≥ ·)] (hf : QuasiconcaveOn 
...
+
+theorem QuasiconcaveOn.antitone_comp (hg : Antitone g) (hf : QuasiconcaveOn 𝕜 s f) :
+  QuasiconvexOn 𝕜 s (g ∘ f) := by
+  apply QuasiconvexOn.antitone_comp (β := βᵒᵈ) (γ := γᵒᵈ) (f := f) _ hf
+  rw [← antitone_dual_iff]; exact hg
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/Quasiconvex.lean]:
```suggestion
    QuasiconvexOn 𝕜 s (g ∘ f) :=
  hf.monotone_comp hg.dual_right
```

File: Mathlib/Analysis/Convex/Quasiconvex.lean [hunk 6]
```diff
@@ -87,6 +88,106 @@ theorem QuasiconcaveOn.convex [IsDirected β (· ≥ ·)] (hf : QuasiconcaveOn 
...
+section Preconnected
+
+variable {E : Type*} [AddCommGroup E] [Module ℝ E]
+  [TopologicalSpace E] [IsTopologicalAddGroup E] [ContinuousSMul ℝ E]
+
+variable {β : Type*} [Preorder β] {f : E → β}
+
+theorem QuasiconcaveOn.isPreconnected_preimage {s : Set E} {t : β}
+    (hfc : QuasiconcaveOn ℝ s f) :
+    IsPreconnected (f ∘ (fun x ↦ ↑x) ⁻¹' Ici t : Set s) := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/Quasiconvex.lean]: You can phrase it either using a subtype (like you did here) or by saying that `f ⁻¹' Ici t ∩ s` is preconnected, to avoid the subtype. I don't know which formulation is easier to use. Maybe give both?

File: Mathlib/Analysis/Convex/SaddlePoint.lean [hunk 7]
```diff
@@ -0,0 +1,126 @@
...
+
+public import Mathlib.Order.ConditionallyCompleteLattice.Basic
+public import Mathlib.Order.OmegaCompletePartialOrder
+
+/-!
+# Saddle points of a map
+
+* `IsSaddlePointOn`.
+  Let `f : E × F → β` be a map, where `β` is preordered.
+  A pair `(a,b)` in `E × F` is a *saddle point* of `f` on `X × Y`
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/SaddlePoint.lean:16]:
```suggestion
  A pair `(a, b)` in `E × F` is a *saddle point* of `f` on `X × Y`
```

File: Mathlib/Analysis/Convex/SaddlePoint.lean [hunk 8]
```diff
@@ -0,0 +1,126 @@
...
+  if `f a y ≤ f x b` for all `x ∈ X` and all `y `in Y`.
+
+* `isSaddlePointOn_iff`: if `β` is a complete linear order,
+  then `(a, b) ∈ X × Y` is a saddle point on `X × Y` iff
+  `⨆ y ∈ Y, f a y = ⨅ x ∈ X f x b = f a b`.
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/SaddlePoint.lean]:
```suggestion
  `⨆ y ∈ Y, f a y = ⨅ x ∈ X, f x b = f a b`.
```

File: Mathlib/Analysis/Convex/SaddlePoint.lean [hunk 9]
```diff
@@ -0,0 +1,126 @@
...
+    (h : IsSaddlePointOn X Y f a b) (h' : IsSaddlePointOn X Y f a' b') :
+    IsSaddlePointOn X Y f a b' := fun x hx y hy ↦
+  le_trans (h a' ha' y hy) (h' x hx b hb)
+
+-- [Hiriart-Urruty, (4.1.1)]
+lemma isSaddlePointOn_iff [CompleteLinearOrder β]
+    {a : E} (ha : a ∈ X) {b : F} (hb : b ∈ Y) :
+    IsSaddlePointOn X Y f a b ↔
+      ⨆ y ∈ Y, f a y = f a b ∧  ⨅ x ∈ X, f x b = f a b := by
+  constructor
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/SaddlePoint.lean]: All the boring `constructor` and `intro` dance can be done in one line:
```
  refine ⟨fun h ↦ ⟨?_, ?_⟩, fun ⟨h, h'⟩ x hx y hy ↦ ?_⟩ 
```
Same thing below

File: Mathlib/Analysis/Convex/SaddlePoint.lean [hunk 10]
```diff
@@ -0,0 +1,126 @@
...
+/-- The pair `(a,b)` is a saddle point of `f` on `X × Y`
+if `f a y ≤ f x b` for all `x ∈ X` and all `y `in Y`.
+
+Note: we do not require that a ∈ X and b ∈ Y. -/
+def IsSaddlePointOn [Preorder β] (a : E) (b : F) : Prop :=
+  ∀ x ∈ X, ∀ y ∈ Y, f a y ≤ f x b
+
+variable {X Y f}
+
+lemma IsSaddlePointOn.swap [Preorder β] {a a' : E} {b b' : F} (ha' : a' ∈ X) (hb : b ∈ Y)
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/SaddlePoint.lean]: Could you call this `swap_left`, and also add a `swap_right` version?

File: Mathlib/Analysis/Convex/SaddlePoint.lean [hunk 11]
```diff
@@ -0,0 +1,126 @@
...
+    (h : IsSaddlePointOn X Y f a b) (h' : IsSaddlePointOn X Y f a' b') :
+    IsSaddlePointOn X Y f a b' := fun x hx y hy ↦
+  le_trans (h a' ha' y hy) (h' x hx b hb)
+
+-- [Hiriart-Urruty, (4.1.1)]
+lemma isSaddlePointOn_iff [CompleteLinearOrder β]
+    {a : E} (ha : a ∈ X) {b : F} (hb : b ∈ Y) :
+    IsSaddlePointOn X Y f a b ↔
+      ⨆ y ∈ Y, f a y = f a b ∧  ⨅ x ∈ X, f x b = f a b := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/SaddlePoint.lean]:
```suggestion
      ⨆ y ∈ Y, f a y = f a b ∧ ⨅ x ∈ X, f x b = f a b := by
```

File: Mathlib/Analysis/Convex/SaddlePoint.lean [hunk 12]
```diff
@@ -0,0 +1,126 @@
...
+      apply le_iSup₂ y hy
+    · -- f a b ≤ f x b
+      rw [← h']
+      apply iInf₂_le x hx
+
+-- [Hiriart-Urruty, Prop. 4.2.2]
+lemma isSaddlePointOn_iff' [CompleteLinearOrder β]
+    {a : E} (ha : a ∈ X) {b : F} (hb : b ∈ Y) :
+    IsSaddlePointOn X Y f a b ↔
+      ((⨆ y ∈ Y, f a y) ≤ (⨅ x ∈ X, f x b)) := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/SaddlePoint.lean]:
```suggestion
      (⨆ y ∈ Y, f a y) ≤ (⨅ x ∈ X, f x b) := by
```
I think dropping these parentheses improve a little bit the readability.

File: Mathlib/Analysis/Convex/SaddlePoint.lean [hunk 13]
```diff
@@ -0,0 +1,126 @@
...
+      · apply le_trans _ h
+        apply le_iSup₂ b hb
+
+-- [Hiriart-Urruty, Prop. 4.2.2]
+-- The converse doesn't seem to hold
+/-- Minimax formulation of saddle points -/
+lemma isSaddlePointOn_value [CompleteLinearOrder β]
+    {a : E} (ha : a ∈ X) {b : F} (hb : b ∈ Y)
+    (h : IsSaddlePointOn X Y f a b) :
+    ((⨅ x ∈ X, ⨆ y ∈ Y, f x y = f a b) ∧ (⨆ y ∈ Y, ⨅ x ∈ X, f x y = f a b)) := by
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/SaddlePoint.lean]:
```suggestion
    (⨅ x ∈ X, ⨆ y ∈ Y, f x y = f a b) ∧ (⨆ y ∈ Y, ⨅ x ∈ X, f x y = f a b) := by
```

File: Mathlib/Analysis/Convex/Quasiconvex.lean (hunk 1 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Analysis/Convex/Quasiconvex.lean]: Sorry, I know that rule, and I don't know how it happened that I didn't respect it here.

File: Mathlib/Analysis/Convex/Quasiconvex.lean (hunk 2 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Analysis/Convex/Quasiconvex.lean]: Again, sorry.

File: Mathlib/Analysis/Convex/Quasiconvex.lean (hunk 6 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Analysis/Convex/Quasiconvex.lean]: The set intersection is exactly the definition of quasiconcavity (up to exchanging the order of intersections). I propose to use the notation for intersection as subtype given by `↓∩`.

File: Mathlib/Analysis/Convex/SaddlePoint.lean (hunk 12 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Analysis/Convex/SaddlePoint.lean]: Indeed.

File: Mathlib/Analysis/Convex/SaddlePoint.lean (hunk 13 above)
Comment (AntoineChambert-Loir) [reply Mathlib/Analysis/Convex/SaddlePoint.lean]: As a matter of fact, the other set of parentheses can be removed as well.

Comment (sgouezel) [reply Mathlib/Analysis/Convex/SaddlePoint.lean]: Yes, I know, but one can argue that it decreases or increases readability according to the point of view, so it's up to your choice. While for the outer ones, it's uncontroversial I think.

File: Mathlib/Analysis/Convex/Quasiconvex.lean [hunk 14]
```diff
@@ -87,6 +88,105 @@ theorem QuasiconcaveOn.convex [IsDirected β (· ≥ ·)] (hf : QuasiconcaveOn 
...
+section Preconnected
+
+variable {E : Type*} [AddCommGroup E] [Module ℝ E]
+  [TopologicalSpace E] [IsTopologicalAddGroup E] [ContinuousSMul ℝ E]
+
+variable {β : Type*} [Preorder β] {f : E → β}
+
+open scoped Set.Notation
+
+theorem QuasiconcaveOn.isPreconnected_preimage {s : Set E} {t : β}
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/Quasiconvex.lean]: The lemma name does not really indicate that you're looking inside the subtype (given the name, I'd expect more something saying `IsPreconnected (s ∩ f ⁻¹' Ici t)`, i.e., the definition of quasiconcave). Maybe rename it to
```suggestion
theorem QuasiconcaveOn.isPreconnected_preimage_subtype {s : Set E} {t : β}
```
Same thing below.

File: Mathlib/Analysis/Convex/SaddlePoint.lean [hunk 15]
```diff
@@ -0,0 +1,124 @@
+/-
```
Comment (sgouezel) [inline Mathlib/Analysis/Convex/SaddlePoint.lean:1]: I'm not sure why you have put this file in the `Convex` subfolder. Are you planning to add things about convexity later in this file?

Comment (AntoineChambert-Loir) [reply Mathlib/Analysis/Convex/SaddlePoint.lean:1]: No, I moved it to `Order`.

File: Mathlib/Order/SaddlePoint.lean [hunk 16]
```diff
@@ -0,0 +1,124 @@
...
+open Set
+
+section SaddlePoint
+
+variable {E F : Type*} {β : Type*}
+variable (X : Set E) (Y : Set F) (f : E → F → β)
+
+/-- The trivial minimax inequality -/
+theorem iSup₂_iInf₂_le_iInf₂_iSup₂ [CompleteLinearOrder β] :
+  ⨆ y ∈ Y, ⨅ x ∈ X, f x y ≤ ⨅ x ∈ X, ⨆ y ∈ Y, f x y := by
```
Comment (sgouezel) [inline Mathlib/Order/SaddlePoint.lean]:
```suggestion
    ⨆ y ∈ Y, ⨅ x ∈ X, f x y ≤ ⨅ x ∈ X, ⨆ y ∈ Y, f x y := by
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Can you change the title of the PR to reflect the new location of the file?
Thanks!
